US06083908
To a solution of 2(R)-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid (0.18 g, 0.53 mmol) in methylene chloride (5 ml) was added 1-hydroxy-7-azabenzotriazole (0.072 g, 0.53 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.10 g, 0.53 mmol) and the mixture was cooled to 0° C. Then acetic acid N'-methyl-N'-((2R)-2-(methylamino)-3-phenylpropionyl)hydrazide (0.11 g, 0.44 mmol) and diisopropylethylamine (0.098 ml, 0.57 mmol) were added and the mixture was stirred at room temperature overnight. Then methylene chloride (50 ml) was added and the mixture was washed with water (10 ml), saturated sodium bicarbonate (10 ml), brine (10 ml), dried (MgSO4), filtered, concentrated in vacuo and chromatographed on silica gel (40 g) with ethyl acetate to give 0.14 g (57%) of N-((1R)-1-(N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester as a colourless oil.

reactant | 2(R)-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid | 0.53 mmol, 0.18 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.53 mmol, 0.072 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.53 mmol, 0.10 g | Cl.C(C)N=C=NCCCN(C)C
reactant | acetic acid N'-methyl-N'-((2R)-2-(methylamino)-3-phenylpropionyl)hydrazide | 0.44 mmol, 0.11 g | CN(NC(C)=O)C([C@@H](CC1=CC=CC=C1)NC)=O | C13H19N3O2
reactant | diisopropylethylamine | 0.57 mmol, 0.098 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-((1R)-1-(N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 0.14 g, 57% | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](C(=O)N(NC(C)=O)C)CC1=CC=CC=C1)=O)=O | C32H40N4O5
